2171-09-17 02:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   her paced rate was increased to 70 to improve her CO
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2171-9-16**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2171-9-16**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-17**] 02:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 70 (54 - 72) bpm
   BP: 99/61(70) {76/41(44) - 118/68(77)} mmHg
   RR: 17 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Height: 66 Inch
                  Total In:
                                                                  1,905 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                  1,365 mL
   Blood products:
   Total out:
                                                                    707 mL
                                                                     85 mL
   Urine:
                                                                    707 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,198 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   VS: BP= 118/64 HR= 67 RR= 12 O2 sat= 100% 2L NC
   GENERAL: in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP below clavicle
   CARDIAC: RRR, No MRG distant heart sounds
   ABDOMEN: Soft, diffusely tender to palpation. obese. Abd aorta not
   enlarged by palpation. No abdominial bruits.
   EXTREMITIES: R inguinal hematoma 5x5cm w/ venous and arterial sheaths
   in place
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 1+
   Labs / Radiology
   236 K/uL
   12.0 g/dL
   120 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.1 mEq/L
   18 mg/dL
   99 mEq/L
   133 mEq/L
   35.2 %
   6.7 K/uL
        [image002.jpg]
                             [**2171-9-16**]  06:31 AM
                             [**2171-9-16**]  01:10 PM
   WBC
   6.7
   Hct
   34.6
   35.2
   Plt
   236
   Cr
   0.9
   Glucose
   120
   Other labs: CK / CKMB / Troponin-T:334/29/
   Assessment and Plan
   # CORONARIES: S/p STEMI early this a.m. w/ BMS to LAD and POBA to
   distal LAD. EKG had been c/w LAD lesionl
   - Plavix 75mg QD
   - ASA 325mg QD
   - Integrillin off [**3-18**] hematoma
   - restart home beta blocker and uptitrate
   - Restart [**Last Name (un) 239**] when BP stable on BB and after window for contrast
   nephropathy.
   - Simvastatin 80mg QHS
   .
   # PUMP:  HD stable, no e/o volume overload. Not on home lasix.
   - check echo this am
   .
   # RHYTHM: NSR
   - Metoprolol
   .
   # HTN: appears controlled at this time
   - continue olmesartan, dyazide, nifedipine XL, metoprolol
   - change metoprolol to tartrate while in-house
   .
   # GERD:
   - start ranitidine
   .
   #. History of pacemaker for complete heart block:
   placed in [**2166**], followed in the device clinic and by Dr. [**Last Name (STitle) **] in
   cardiology
   - monitor on telemetry
   .
   # Asthma:
   Mildly wheezing on exam and monitor. Needs inhaler less than once/wk at
   home. Denies shortness of breath.
   - Albuterol nebs
   .
   #. History of hyperlipidemia
   - continue statin, increase dose
   .
   #. S/p thyroid irradiation:
   - continue levothyroxine, home dose
   .
   # hx of Weight loss:
   weight has actually stable over the last month or two, per patient.
   - continue encouraging PO intake with mechanical soft diet and Ensure
   supplements
   - monitor daily weights
   .
   # Glaucoma:
   s/p surgery for glaucoma in ?both eyes.
   - latanoprost, dorzolamide, brimonidine eye drops to left eye
   .
   #. Depression.
   - continue fluoxetine
   .
   FEN: mechanical soft diet because she has trouble swallowing and is
   adentulous / monitor electrolytes / NPO after midnight SUnday night for
   Cath Monday
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with Heparin IV for Acute Coronary Syndrome
   -Bowel regimen with colace
   CODE: Full (confirmed w patient; patient to think about it)
   .
   COMM: [**First Name8 (NamePattern2) 9862**] [**Last Name (NamePattern1) 9863**] daughter [**Telephone/Fax (1) 9864**] (Health Care Proxy)
   .
   DISPO: Home w Services pending resolution of above
   FEN:  regular diet low sodium
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SubQ heparin
   -Pain management with
   -Bowel regimen with
   .
   CODE: confirmed full
   .
   COMM: Pt. and daughter
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-9-16**] 05:27 AM
   20 Gauge - [**2171-9-16**] 05:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-09-17 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   her paced rate was increased to 70 to improve her CO
   Did well overnight- denied any shortness of breath, chest/jaw pain.
   Currently on RA- satting 97%
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2171-9-16**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2171-9-16**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-17**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 70 (54 - 72) bpm
   BP: 122/66(80) {76/41(44) - 122/68(80)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Height: 66 Inch
                  Total In:
                                                                  1,905 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                  1,365 mL
   Blood products:
   Total out:
                                                                    707 mL
                                                                    237 mL
   Urine:
                                                                    707 mL
                                                                    237 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,198 mL
                                                                   -237 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP below clavicle
   CARDIAC: Paced rhythm.  No M/R/G, distant heart sounds
   ABDOMEN: Soft, non-tender, non-distended.  Obese. Abd aorta not
   enlarged by palpation. No abdominial bruits.
   EXTREMITIES: R inguinal hematoma resolving.  No signs of infection- no
   erythema or other fluid collections noted.  Bandaged.  Clean.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 1+
   Labs / Radiology
   236 K/uL
   12.0 g/dL
   120 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.1 mEq/L
   18 mg/dL
   99 mEq/L
   133 mEq/L
   35.2 %
   6.7 K/uL
        [image002.jpg]
                             [**2171-9-16**]  06:31 AM
                             [**2171-9-16**]  01:10 PM
   WBC
   6.7
   Hct
   34.6
   35.2
   Plt
   236
   Cr
   0.9
   Glucose
   120
   Other labs: CK / CKMB / Troponin-T:334/29/
   Assessment and Plan
   # CORONARIES: S/p STEMI on [**9-15**]. w/ BMS to LAD and POBA to distal LAD.
   EKG had been c/w LAD lesion.  Cathed on [**9-15**] AM.
   - Plavix 75mg QD
   - ASA 325mg QD
   - Integrillin off [**3-18**] hematoma
   - restarted home beta blocker on [**9-16**]
   - Restart [**Last Name (un) 239**] when BP stable on BB and after window for contrast
   nephropathy.
   - Simvastatin 80mg QHS
   .
   # PUMP:  HD stable, no e/o volume overload. Not on home lasix.  ECHO on
   [**9-16**] showed LVEF of 30-35%
   -monitor for signs of fluid overload
   -lasix if needed
   .
   # RHYTHM: NSR
   - Metoprolol
   .
   # HTN: appears controlled at this time
   - holding home anti-hypertensives except for metoprolol.
   - change metoprolol to tartrate while in-house
   .
   # GERD:
   - start ranitidine
   .
   #. History of pacemaker for complete heart block:
   placed in [**2166**], followed in the device clinic and by Dr. [**Last Name (STitle) **] in
   cardiology
   - monitor on telemetry
   .
   # Asthma:
   Mildly wheezing on exam and monitor. Needs inhaler less than once/wk at
   home. Denies shortness of breath.
   - Albuterol nebs
   .
   #. History of hyperlipidemia
   - continue statin, increase dose
   .
   #. S/p thyroid irradiation:
   - continue levothyroxine, home dose
   .
   # hx of Weight loss:
   weight has actually stable over the last month or two, per patient.
   - continue encouraging PO intake with mechanical soft diet and Ensure
   supplements
   - monitor daily weights
   .
   # Glaucoma:
   s/p surgery for glaucoma in ?both eyes.
   - latanoprost, dorzolamide, brimonidine eye drops to left eye
   .
   #. Depression.
   - continue fluoxetine
   .
   FEN: mechanical soft diet because she has trouble swallowing and is
   adentulous / monitor electrolytes /
   ACCESS: PIV's
   PROPHYLAXIS:
   -PT consult
   -DVT ppx with Heparin IV for Acute Coronary Syndrome
   -Bowel regimen with colace
   CODE: Full (confirmed w patient; patient to think about it)
   .
   COMM: [**First Name8 (NamePattern2) 9862**] [**Last Name (NamePattern1) 9863**] daughter [**Telephone/Fax (1) 9864**] (Health Care Proxy)
   .
   DISPO: Home w Services pending resolution of above
   FEN:  regular diet low sodium
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-9-16**] 05:27 AM
   20 Gauge - [**2171-9-16**] 05:28 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: sucralfate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: likely transfer to floor
   ------ Protected Section ------
   Attending
s Note
   I agree with Dr. [**Last Name (STitle) 9429**]
s note.Reviewed course and data.examined Pt and
   agree with Rx plan.
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) 1626**] [**Last Name (NamePattern1) **]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1626**] [**Name (NI) **]
   on:[**2171-9-17**] 18:54 ------

2171-09-18 00:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: STEMI
   24 Hour Events:
   SBP decreased into 90s and UOP decreased to 25-35 ml/hr for few hrs
   overnight
 responded to 500 cc fluid bolus, with SBP into 110s and UOP
   to 80-100 ml/hr.
   Holding off on AM labs, as unable to draw blood yesterday and labs wnl.
   Stating that foley is causing some irritation/discomfort.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2171-9-17**] 08:33 PM
   Heparin Sodium (Prophylaxis) - [**2171-9-17**] 09:00 PM
   Carafate (Sucralfate) - [**2171-9-17**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-18**] 12:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 70 (70 - 79) bpm
   BP: 94/56(69) {75/36(46) - 122/75(80)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
   Wgt (current): 85.5 kg (admission): 80.7 kg
   Height: 66 Inch
                  Total In:
                                                                  1,540 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    787 mL
                                                                     45 mL
   Urine:
                                                                    787 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    753 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   Physical Examination
   VS
 Tm 98.6, Tc 97.4, HR 70-71, BP 93-133/56-70, RR 15-21, 97% on RA
   GENERAL: in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP below clavicle
   CARDIAC: Paced rhythm.  distant heart sounds, with nl S1S2
   ABDOMEN: Soft, minimal generalized tenderness over abdomen (unchaged),
   non-distended.  Abd aorta not enlarged by palpation. No abdominial
   bruits.
   EXTREMITIES: R inguinal hematoma resolving.  No signs of infection- no
   erythema or other fluid collections noted.  Clean.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 1+
   Labs / Radiology
   219 K/uL
   10.3 g/dL
   140 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   20 mg/dL
   101 mEq/L
   136 mEq/L
   32.5 %
   5.1 K/uL
        [image002.jpg]
   From [**2171-9-17**] (no new labs today)
                             [**2171-9-16**]  06:31 AM
                             [**2171-9-16**]  01:10 PM
                             [**2171-9-17**]  09:38 AM
                             [**2171-9-17**]  03:28 PM
   WBC
   6.7
   5.1
   Hct
   34.6
   35.2
   31.0
   32.5
   Plt
   236
   219
   Cr
   0.9
   1.1
   Glucose
   120
   140
   Other labs: PT / PTT / INR:12.4/33.4/1.0, CK / CKMB /
   Troponin-T:334/29/, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   # CORONARIES: S/p STEMI on [**9-15**]. w/ BMS to LAD and POBA to distal LAD.
   EKG had been c/w LAD lesion.  Cathed on [**9-15**] AM.
   - Plavix 75mg QD
   - ASA 325mg QD
   - restarted home beta blocker on [**9-16**], currently titrated to her
   hypotension at 12.5 mg [**Hospital1 **]
   - Restart [**Last Name (un) 239**] when BP stable and after window for contrast nephropathy.
   - Simvastatin 80mg QHS
   .
   # PUMP:  HD stable, no e/o volume overload. Not on home lasix.  ECHO on
   [**9-16**] showed LVEF of 30-35%
   -monitor for signs of fluid overload
   -lasix if needed
   .
   # RHYTHM: NSR, paced
   - Metoprolol at 12.5 mg [**Hospital1 **]
   .
   # HTN: appears controlled at this time, but with occasional episodes of
   hypotension
   - holding home anti-hypertensives except for metoprolol.
   - change metoprolol to tartrate while in-house
   .
   # GERD:
   - ranitidine, magic mouthwash
   .
   #. History of pacemaker for complete heart block:
   placed in [**2166**], followed in the device clinic and by Dr. [**Last Name (STitle) **] in
   cardiology
   - monitor on telemetry
   .
   # Asthma:  monitor. Needs inhaler less than once/wk at home. Denies
   shortness of breath.
   - Albuterol nebs
   .
   #. History of hyperlipidemia
   - continue statin, increase dose
   .
   #. S/p thyroid irradiation:
   - continue levothyroxine, home dose
   .
   # hx of Weight loss:  weight has actually stable over the last month or
   two, per patient.
   - continue encouraging PO intake with mechanical soft diet and Ensure
   supplements
   - monitor daily weights
   .
   # Glaucoma:  s/p surgery for glaucoma in ?both eyes.
   - latanoprost, dorzolamide, brimonidine eye drops to left eye
   .
   #. Depression.
   - continue fluoxetine
   .
    # Deconditioning/malnutrition
 PT consult, ensure supplements TID
   FEN: mechanical soft diet because she has trouble swallowing and is
   adentulous / monitor electrolytes / D/C Foley
   ACCESS: PIV's
   PROPHYLAXIS:
   -PT consult
   -DVT ppx with heparin SQ
   -Bowel regimen with colace
   CODE: Full (confirmed w patient; patient to think about it)
   .
   COMM: [**First Name8 (NamePattern2) 9862**] [**Last Name (NamePattern1) 9863**] daughter [**Telephone/Fax (1) 9864**] (Health Care Proxy)
   .
   DISPO: Home w Services pending resolution of above, transfer to [**Hospital1 2259**]
   FEN:  regular diet low sodium
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-9-16**] 05:27 AM
   20 Gauge - [**2171-9-16**] 05:28 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: sucralfate, ranitidine
   VAP:
   Comments:
   Communication:  Comments: with patient and daughter [**Name (NI) 9862**] (HCP)
   [**Name (NI) 66**] status: Full code
   Disposition: transfer to [**Hospital1 2259**]
   ------ Protected Section ------
   I reviewed Dr,[**Doctor Last Name 9894**].
s notes, reviewed data and examined Pt.
   Agree with treatment plan
   Spent 30mins on case.
   [**First Name4 (NamePattern1) 1626**] [**Last Name (NamePattern1) **]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1626**] [**Name (NI) **]
   on:[**2171-9-18**] 13:54 ------